US06576643B2
g) Ethyl (±)-10,11-dihydro-3-hydroxydibenzo[b,f]oxepine-10-acetate
A solution of ethyl (±)-10,11-dihydro-3-methoxydibenzo[b,f]oxepine-10-acetate (523 mg, 1.68 mmole) in CH2Cl2 (6.8 mL) was added dropwise to a cold solution of BBr3 in CH2Cl2 (1.0 M, 6.7 mL, 6.7 mmole) at 0° C. under argon. The reaction was stirred for 20 min, then CH3OH (7 mL) was added carefully. The mixture was concentrated and the residue was flash chromatographed on silica gel (15-20% EtOAc/hexanes) to afford the title compound (407 mg, 89%) as a pale yellow oil: MS (ES) m/e 299 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-3-methoxydibenzo[b,f]oxepine-10-acetate | 1.68 mmole, 523 mg | COC=1C=CC2=C(OC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C19H20O4
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | CH3OH | 7 mL | CO | CH4O
solvent | CH2Cl2 | 6.8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.7 mmole, 1.0 M, 6.7 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (±)-10,11-dihydro-3-hydroxydibenzo[b,f]oxepine-10-acetate | 407 mg, 89% | OC=1C=CC2=C(OC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C18H18O4
